US07745438B2
(R)-5-[(1R,2S)-3-(3,5-difluorophenyl)-1-hydroxy-2-nitropropyl]-2,2-diphenylmorpholine-4-carboxylic acid tert-butyl ester
To (R)-5-formyl-2,2-diphenylmorpholine-4-carboxylic acid tert-butyl ester (1.03 g, 2.80 mmol) and 1,3-difluoro-5-(2-nitroethyl)-benzene (0.577 g, 3.08 mmol) in tetrahydrofuran (5 mL) at −0° C. under nitrogen add tetrabutylammonium fluoride (3 mL, 3.0 mmol, 1.0 M in tetrahydrofuran). Stir 20 minutes and add half saturated aqueous sodium chloride (20 mL) and ethyl acetate (100 mL). Separate the layers and wash the organic layer with water and saturated aqueous sodium chloride. Dry (magnesium sulfate), filter and concentrate. Purify on silica gel, eluting with 0:100 to 50:50 ethyl acetate:hexanes, then re-crystallize from hexanes/dichloromethane to give the desired compound.

reactant | (R)-5-formyl-2,2-diphenylmorpholine-4-carboxylic acid tert-butyl ester | 2.80 mmol, 1.03 g | C(C)(C)(C)OC(=O)N1CC(OC[C@@H]1C=O)(C1=CC=CC=C1)C1=CC=CC=C1 | C22H25NO4
reactant | 1,3-difluoro-5-(2-nitroethyl)-benzene | 3.08 mmol, 0.577 g | FC1=CC(=CC(=C1)CC[N+](=O)[O-])F | C8H7F2NO2
reactant | tetrabutylammonium fluoride | 3.0 mmol, 1.0 M, 3 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | sodium chloride | 20 mL | [Cl-].[Na+]
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | (R)-5-[(1R,2S)-3-(3,5-difluorophenyl)-1-hydroxy-2-nitropropyl]-2,2-diphenylmorpholine-4-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC(OC[C@@H]1[C@H]([C@H](CC1=CC(=CC(=C1)F)F)[N+](=O)[O-])O)(C1=CC=CC=C1)C1=CC=CC=C1 | C30H32F2N2O6
